US09334286B2
Preparation 121 5-Bromo-1-methyl-1H-imidazole-2-carbonitrile
(E)-5-Bromo-1-methyl-1H-imidazole-2-carbaldehyde oxime (Preparation 155, 38 mg, 0.186 mmol) and TEA (39 uL, 0.279 mmol) was stirred in THF (6 mL) and cooled at 0° C., TFAA (28 uL, 0.205 mmol) was added. Then the mixture was stirred at 60° C. under microwave irradiation for 3 hours. The reaction was purified directly by Biotage silica gel column chromatography eluting with 20% EtOAc in cyclohexanes to give the title compound as yellow solid (15 mg, 43%).

reactant | (E)-5-Bromo-1-methyl-1H-imidazole-2-carbaldehyde oxime | 0.186 mmol, 38 mg | BrC1=CN=C(N1C)/C=N/O | C5H6BrN3O
reactant | TFAA | 0.205 mmol, 28 uL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 5-Bromo-1-methyl-1H-imidazole-2-carbonitrile | 15 mg, 43% | BrC1=CN=C(N1C)C#N | C5H4BrN3
